US05204344
Step B: 3-[N-(p-Chlorobenzyl)-4-(quinolin-2-yl-methoxy)indol-2-yl]-2,2-dimethylpropanoic acid
The title product was prepared according to conditions described in Steps D and E of Example 1 substituting methyl 3-[N-(p-chlorobenzyl)-4-hydroxy indol-2-yl]-2,2-dimethylpropanoate for the propanoate in Example 1 (Step D), m.p. 158°-160° C.

reactant | methyl 3-[N-(p-chlorobenzyl)-4-hydroxy indol-2-yl]-2,2-dimethylpropanoate | ClC1=CC=C(CN2C(=CC3=C(C=CC=C23)O)CC(C(=O)OC)(C)C)C=C1 | C21H22ClNO3
reactant | propanoate | C(CC)(=O)[O-]
product | 3-[N-(p-Chlorobenzyl)-4-(quinolin-2-yl-methoxy)indol-2-yl]-2,2-dimethylpropanoic acid | ClC1=CC=C(CN2C(=CC3=C(C=CC=C23)OCC2=NC3=CC=CC=C3C=C2)CC(C(=O)O)(C)C)C=C1 | C30H27ClN2O3
